US05169428
Preparation of N-(2-fluoro-4-chloro-5-cyanophenyl)-3,4,5,6-tetrahydrophthalimide (Compound No. 30 (Table 5))
To 30 ml of thionyl chloride, 1.13 g of N-(2-fluoro-4-chloro-5-aminocarbonylphenyl)-3,4,5,6-tetrahydrophthalimide was added and the mixture was heated to reflux under stirring for 16 hours. After cooling, the solvent was evaporated under reduced pressure and the residue was purified by column chromatography (silica gel, benzene/ethyl acetate=10/1 (v/v)) to obtain 0.63 g of the desired product.m.p.: 160°-162° C.

reactant | N-(2-fluoro-4-chloro-5-aminocarbonylphenyl)-3,4,5,6-tetrahydrophthalimide | 1.13 g | FC1=C(C=C(C(=C1)Cl)C(=O)N)N1C(C2=C(C1=O)CCCC2)=O | C15H12ClFN2O3
solvent | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
product | N-(2-fluoro-4-chloro-5-cyanophenyl)-3,4,5,6-tetrahydrophthalimide | 0.63 g | FC1=C(C=C(C(=C1)Cl)C#N)N1C(C2=C(C1=O)CCCC2)=O | C15H10ClFN2O2
